US05650539
To a solution of E-α-hydroxyimino-2-phenoxyphenylacetic acid (10.00 g, 0.0389 mole) in dimethyl sulfoxide (50 ml) and toluene (50 ml) was added sodium methoxide (4.83 g, 0.0894 mole) with stirring under ice cooling, and the mixture was stirred at room temperature for 20 minutes and then cooled. Dimethylsulfate (11.28 g, 0.0894 mole) was added at 6°-18° C. over 6 minutes, followed by stirring at room temperature for 4.5 hours. After completion of the reaction, conc. hydrochloric acid (1.2 ml) and water (100 ml) were added to the reaction mixture with stirring under ice cooling, followed by extraction with toluene. The extract was washed with water and concentrated under reduced pressure, and then the resulting residue was recrystallized (methanol) to obtain E-α-methoxyimino-2-phenoxyphenylacetic acid methyl ester (8.11 g, yield: 73.1%) as colorless crystals (melting point: 107°-109° C.).

reactant | E-α-hydroxyimino-2-phenoxyphenylacetic acid | 0.0389 mole, 10.00 g | O\N=C(\C(=O)O)/C1=C(C=CC=C1)OC1=CC=CC=C1 | C14H11NO4
reactant | sodium methoxide | 0.0894 mole, 4.83 g | C[O-].[Na+]
reactant | Dimethylsulfate | 0.0894 mole, 11.28 g | COS(=O)(=O)OC | C2H6O4S
reactant | hydrochloric acid | 1.2 ml | Cl | ClH
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | E-α-methoxyimino-2-phenoxyphenylacetic acid methyl ester | 8.11 g, yield: 73.1% | COC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C16H15NO4
